US06627629B2
Part D: Preparation of (3R,4R)-4-[(R)-1-phenyl-ethylamino]-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester
In a dry flask (3S,4R)-4-[(R)-1-phenyl-ethylamino]-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (13.78 g, 38.0 mmol) was dissolved in ethanol (400 mL) along with 3 Å molecular sieves (1.04 g). The mixture was heated to reflux over 2.5 hours. Potassium carbonate (26.3 g) was added and refluxing continued for 4 additional hours. The reaction mixture was cooled, filtered through a bed of celite, and concentrated in vacuo to give a crude oil (16.05 g). Purification by flash column chromatography (20-50% ethyl acetate/hexanes) provided a colorless oil (3.24 g, 23%). Unepimerized ethyl ester was also isolated (7.55 g, 53%). 1H NMR (300 MHz, CDCl3), δ: 7.30 (m, 4H), 7.23 (m, 1H), 4.20 (m, 3H), 3.97 (bs, 1H), 3.82 (q, 1H, J=6), 2.89 (m, 2H), 2.66 (t, 1H, J=11), 2.31 (bs, 1H), 1.72 (m, 1H), 1.43 (s, 9H), 1.31 (m, 7H), 1.11 (m, 1H).

reactant | (3S,4R)-4-[(R)-1-phenyl-ethylamino]-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 38.0 mmol, 13.78 g | COC(=O)[C@H]1CN(CC[C@H]1N[C@H](C)C1=CC=CC=C1)C(=O)OC(C)(C)C | C20H30N2O4
reactant | Potassium carbonate | 26.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | (3R,4R)-4-[(R)-1-phenyl-ethylamino]-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 3.24 g, 23% | C(C)OC(=O)[C@@H]1CN(CC[C@H]1N[C@H](C)C1=CC=CC=C1)C(=O)OC(C)(C)C | C21H32N2O4
